US06620811B2
2-(4-Hydroxy-piperidin-1-yl)-N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 4-hydroxy-piperidine. ES-MS m/e (%): 470 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-hydroxy-piperidine | OC1CCNCC1 | C5H11NO
product | 2-(4-Hydroxy-piperidin-1-yl)-N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | OC1CCN(CC1)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C23H27N5O4S
